US06407111B1
b) 6-Morpholin-4-yl-4-phenoxy-nicotinic acid ethyl ester
A solution of 130 mg (0.468 mmol) 6-chloro-4-phenoxy-nicotinic acid ethyl ester, 0.040 ml (0.47 mmol) morpholine and 0.065 ml (0.47 mmol) triethylamine in 7 ml tetrahydrofuran was stirred at reflux for 40 h. After cooling to room temperature the reaction mixture was filtered, diluted with ethyl acetate and washed with water and saturated aqueous sodium chloride solution. The organic layer was dried with sodium sulfate and concentrated. Flash column chromatography afforded 66 mg (43%) of the title compound as a white solid.

reactant | 6-chloro-4-phenoxy-nicotinic acid ethyl ester | 0.468 mmol, 130 mg | C(C)OC(C1=CN=C(C=C1OC1=CC=CC=C1)Cl)=O | C14H12ClNO3
reactant | morpholine | 0.47 mmol, 0.040 ml | N1CCOCC1 | C4H9NO
reactant | triethylamine | 0.47 mmol, 0.065 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | 6-Morpholin-4-yl-4-phenoxy-nicotinic acid ethyl ester | 66 mg, 43% | C(C)OC(C1=CN=C(C=C1OC1=CC=CC=C1)N1CCOCC1)=O | C18H20N2O4
